US05840732
Synthesis of 3-[4-(2-methylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
Using 0.76 g (3.0 mmol) of 5-(4-chlorobutylthio)-2-methylimidazo[1,2-a]pyridine, 0.35 g (3.0 mmol) of thiazolidine-2,4-dione and 0.45 ml (3.0 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene, the same procedure as in Reference Example 2 was followed, to yield 0.78 g (77.7%, light yellow oily substance) of the desired product.

reactant | 5-(4-chlorobutylthio)-2-methylimidazo[1,2-a]pyridine | 3.0 mmol, 0.76 g | ClCCCCSC1=CC=CC=2N1C=C(N2)C | C12H15ClN2S
reactant | thiazolidine-2,4-dione | 3.0 mmol, 0.35 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 3.0 mmol, 0.45 ml | C1CCC2=NCCCN2CC1 | C9H16N2
product | 3-[4-(2-methylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | CC=1N=C2N(C(=CC=C2)SCCCCN2C(SCC2=O)=O)C1 | C15H17N3O2S2
